US06600046B2
Preparation of 3-[2-(4-(methylthio)phenyl)acetyl](6-methyl)pyridine
A mixture of 8.0 g (28 mmol) of 3-[2-(4-(methylthio)phenyl)-2-cyanoacetyl](6-methyl)pyridine, 20 ml of acetic acid and 60 ml of concentrated hydrochloric acid was heated at 95° C. to 100° C. for 1.5 h. The orange solution was cooled and adjusted to pH 10 using concentrated ammonia solution. The resulting yellow-beige suspension was filtered and the residue was washed with water and dried. This gave 5.35 g (74.3) of the title product in the form of a yellow solid.

reactant | 3-[2-(4-(methylthio)phenyl)-2-cyanoacetyl](6-methyl)pyridine | 28 mmol, 8.0 g | CSC1=CC=C(C=C1)C(C(=O)C=1C=NC(=CC1)C)C#N | C16H14N2OS
reactant | hydrochloric acid | 60 ml | Cl | ClH
reactant | ammonia | N | H3N
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 3-[2-(4-(methylthio)phenyl)acetyl](6-methyl)pyridine | CSC1=CC=C(C=C1)CC(=O)C=1C=NC(=CC1)C | C15H15NOS
